.subckt PTR A1 B1 C1 A2 B2 C2 inductor1=3025 inductor2=25 coupling=1
* transformer 11:1 turns ratio specified by 3025:25 inductance ratio (121:1), coupling is ideal (1)
* 110/10 kV step-down transformer
l1pri A1 i1 {inductor1}
l2pri B1 i1 {inductor1}
l3pri C1 i1 {inductor1} 
l1sec A2 i2 {inductor2} 
l2sec B2 i2 {inductor2}
l3sec C2 i2 {inductor2}
k1 l1pri l1sec {coupling}
k2 l2pri l2sec {coupling}
k3 l3pri l3sec {coupling}
.ends PTR
